US08492378B2
4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl trifluoromethanesulfonate
To a solution of 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol (380 mg, 1.30 mmol) and N-phenylbis(trifluoromethanesulfonimide) (511 mg, 1.43 mmol) in tetrahydrofuran (15 mL) was added sodium hydride (60% in oil, 57.2 mg, 1.43 mmol) by small portions at room temperature, and the resulting mixture was stirred for 30 min. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/tetrahydrofuran=1/2) and recrystallized from hexane/tetrahydrofuran to give the title compound (507 mg, yield 92%) as colorless crystals.

reactant | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenol | 1.30 mmol, 380 mg | CC1=NN=C(O1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)O)C1 | C17H12N2O3
reactant | N-phenylbis(trifluoromethanesulfonimide) | 1.43 mmol, 511 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium hydride | 1.43 mmol, 57.2 mg | [H-].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-(5-methyl-1,3,4-oxadiazol-2-yl)-1-benzofuran-3-yl]phenyl trifluoromethanesulfonate | 507 mg, yield 92% | FC(S(=O)(=O)OC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)C)(F)F | C18H11F3N2O5S
